US05719141
e) 4-[N-Tert-butoxycarbonyl-2,2-dimethyl-4(S)-(2,2-dimethyl-4-triisopropylsilyloxybutyl)-1,3-oxazolidin-5(S)-yl]-but-1-ene
1.80 g of 6(S)-tert-butoxycarbonylamino-8,8-dimethyl-5(S)-hydroxy-10-triisopropylsilyloxydec1-ene are stirred in 10 ml each of methylene chloride and dimethoxypropane with 50 mg of p-toluenesulfonic acid hydrate at room temperature for 2 h. After the mixture has been concentrated, the residue is purified over 250 g of silica gel with a 1:20 mixture of ethyl acetate and hexane as the mobile phase: Rf (1:20 mixture of ethyl acetate and hexane)=0.40.

reactant | 6(S)-tert-butoxycarbonylamino-8,8-dimethyl-5(S)-hydroxy-10-triisopropylsilyloxydec1-ene | 1.80 g | C(C)(C)(C)OC(=O)N[C@H]([C@H](CCC=C)O)CC(CCO[Si](C(C)C)(C(C)C)C(C)C)(C)C | C26H53NO4Si
reactant | dimethoxypropane | COC(C)(C)OC | C5H12O2
reactant | p-toluenesulfonic acid hydrate | 50 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-[N-Tert-butoxycarbonyl-2,2-dimethyl-4(S)-(2,2-dimethyl-4-triisopropylsilyloxybutyl)-1,3-oxazolidin-5(S)-yl]-but-1-ene | C(C)(C)(C)OC(=O)N1C(O[C@H]([C@@H]1CC(CCO[Si](C(C)C)(C(C)C)C(C)C)(C)C)CCC=C)(C)C | C29H57NO4Si
